US05185330
30 ml of benzene was added to 1.00 g of (3R,5R,6R)-6-amino-3-(3-benzylideneamino-2-oxo-imidazolidin-1-yl)-3-(p-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane and 0.46 g of 3,5-di-tert-butyl-4-hydroxybenzaldehyde. The mixture was subjected to azeotropy and dehydration under reflux for 1 hour using a Dean-Stark aparatus. The reaction mixture was cooled, and the solvent was removed by distillation under reduced pressure to obtain 1.40 g (yield: 98.6%) of (3R,5R,6R)-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-6-(3,5-di-tert-butyl-4-hydroxybenzylideneamino)-3-(p-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane.

reactant | (3R,5R,6R)-6-amino-3-(3-benzylideneamino-2-oxo-imidazolidin-1-yl)-3-(p-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane | 1.00 g | N[C@H]1[C@H]2S[C@](CN2C1=O)(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(N(CC1)N=CC1=CC=CC=C1)=O | C23H22N6O6S
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 0.46 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | (3R,5R,6R)-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-6-(3,5-di-tert-butyl-4-hydroxybenzylideneamino)-3-(p-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane | 1.40 g, yield: 98.6% | C(C1=CC=CC=C1)=NN1C(N(CC1)[C@@]1(CN2C([C@H]([C@H]2S1)N=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C38H42N6O7S
